US06432993B1
Sodium hydride (55 wt. %, 1.04 g) was added to a solution of 2-piperidinophenol (3.4 g) in N,N-dimethylformamide (35 ml) in an ice bath under a nitrogen atmosphere. The mixture was stirred at ambient temperature for 15 minutes. To the reaction mixture was added t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate (5.25 g) in small portions. This mixture was stirred at 60° C. for 2 hours. At the end of this time the solvent was evaporated and water added to the residue. The mixture was neutralized with concentrated hydrogen chloride and extracted with ethyl acetate. The ethyl acetate layer was dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using c-hexane/isopropyl ether=5/1 as the eluant to afford t-butyl N-[2-nitro-5-(2-piperidinophenoxy)phenyl]-N-methylcarbamate, of which Rf value was 0.27 in thin layer chromatography on a silica gel plate using c-hexane/isopropyl ether=5/1 as the eluant. A mixture of a solution of this product in toluene/methanol=7/3 (100 ml) and palladium on carbon (10%, 0.63 g) was vigorously stirred at room temperature under a hydrogen atmosphere for 14.5 hours. The catalyst was removed by filtration and the filtrate was concentrated. The residue was washed with cooled methanol and n-hexane to give the title compound (4.2 g).

reactant | Sodium hydride | 1.04 g | [H-].[Na+]
reactant | 2-piperidinophenol | 3.4 g | N1(CCCCC1)C1=C(C=CC=C1)O | C11H15NO
reactant | t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate | 5.25 g | ClC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-] | C12H15ClN2O4
solvent | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | t-butyl N-[2-nitro-5-(2-piperidinophenoxy)phenyl]-N-methylcarbamate | [N+](=O)([O-])C1=C(C=C(C=C1)OC1=C(C=CC=C1)N1CCCCC1)N(C(OC(C)(C)C)=O)C | C23H29N3O5
